US09402841B2
Step E: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-7-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a mixture of (S)-3-(7-chloro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one (180 mg, 0.489 mmol) in DCM (10 mL) was added 2,6-dimethylpyridine (157 mg, 1.467 mmol) at −20° C. followed by the dropwise addition of acryloyl chloride (88 mg, 0.978 mmol, 10 mg/mL in dry DCM). The reaction mixture was warmed to 0° C. over a 30 minute period. The reaction was quenched with MeOH (5 mL) and the mixture concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (35 mg, 18%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.06 (br, 1H), 11.84 (s, 1H), 8.16 (s, 1H), 8.09 (dd, J=1.8 Hz and 8.9 Hz, 1H), 8.03 (s, 1H), 7.83-7.86 (m, 1H), 6.55-6.72 (m, 1H), 6.12-6.19 (m, 2H), 5.63-5.72 (m, 1H), 4.65-4.12 (m, 4H), 2.25-2.42 (m, 2H).

reactant | (S)-3-(7-chloro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 0.489 mmol, 180 mg | ClC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CNCC1)C1=NNC(N1)=O | C15H14ClN5O2
reactant | 2,6-dimethylpyridine | 1.467 mmol, 157 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | acryloyl chloride | 0.978 mmol, 88 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-7-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 35 mg, 18% | C(C=C)(=O)N1C[C@H](CC1)OC1=NC(=CC2=CC=C(C=C12)Cl)C1=NNC(N1)=O | C18H16ClN5O3
